US07700655B2
(2) [2-(5-Bromo-2-hydroxybenzoyl)amino-4-phenylthiazol-5-yl]-N-methylcarboxamide (Compound No. 212)
A mixture of 2-(5-bromo-2-hydroxybenzoyl)amino-4-phenylthiazole-5-carboxylic acid (0.20 g, 0.48 mmol), methylamine 40% methanol solution (0.2 ml), 1-hydroxybenzotriazole hydrate (96.7 mg, 0.72 mmol), WSC.HCl (137.2 mg, 0.72 mmol) and tetrahydrofuran (15 mL) was stirred at room temperature for 18 hours. The reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation under reduced pressure was purified by chromatography on silica gel (n-hexane:ethyl acetate=1:2), and crystallized (dichloromethane/n-hexane) to give the title compound (87.9 mg, 42.6%) as a white powder.

reactant | 2-(5-bromo-2-hydroxybenzoyl)amino-4-phenylthiazole-5-carboxylic acid | 0.48 mmol, 0.20 g | BrC=1C=CC(=C(C(=O)NC=2SC(=C(N2)C2=CC=CC=C2)C(=O)O)C1)O | C17H11BrN2O4S
reactant | methylamine | 0.2 ml | CN | CH5N
reactant | 1-hydroxybenzotriazole hydrate | 0.72 mmol, 96.7 mg | O.ON1N=NC2=C1C=CC=C2
reactant | WSC.HCl | 0.72 mmol, 137.2 mg | CCN=C=NCCCN(C)C.Cl
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | [2-(5-Bromo-2-hydroxybenzoyl)amino-4-phenylthiazol-5-yl]-N-methylcarboxamide | 87.9 mg, 42.6% | BrC=1C=CC(=C(C(=O)NC=2SC(=C(N2)C2=CC=CC=C2)C(=O)NC)C1)O | C18H14BrN3O3S
